US07763657B2
Step 5: N-{4-[3-(4-tert-Butyl-benzyl)-ureidomethyl]-5-methoxy-2-vinyl-phenyl}-methanesulfonamide
To a ice-cooled solution of (4-methanesulfonylamino-2-methoxy-5-vinyl-benzyl)-carbamic acid tert-butyl ester (220 mg, 0.73 mmol) in methylene chloride was treated with trifluoroacetic acid (100 mg, 0.88 mmol)) for 1 hr, and then concentrated under reduced pressure. The part of crude residue (100 mg, 0.27 mmol) was suspended in methylene chloride and treated with triethylamine followed by (4-tert-butyl-benzyl)-carbamic acid phenyl ester (92 mg, 0.32 mmol). The resulting mixture was heated with reflux for 3 days and concentrated under reduced pressure. The crude residue was column-chromatographed (hexane/ethylacetate=1/2) to yield a white solid (8.8 mg, 7.0%).

reactant | (4-methanesulfonylamino-2-methoxy-5-vinyl-benzyl)-carbamic acid tert-butyl ester | 0.73 mmol, 220 mg | C(C)(C)(C)OC(NCC1=C(C=C(C(=C1)C=C)NS(=O)(=O)C)OC)=O | C16H24N2O5S
reactant | trifluoroacetic acid | 0.88 mmol, 100 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | (4-tert-butyl-benzyl)-carbamic acid phenyl ester | 0.32 mmol, 92 mg | C1(=CC=CC=C1)OC(NCC1=CC=C(C=C1)C(C)(C)C)=O | C18H21NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-{4-[3-(4-tert-Butyl-benzyl)-ureidomethyl]-5-methoxy-2-vinyl-phenyl}-methanesulfonamide | 8.8 mg, 7.0% | C(C)(C)(C)C1=CC=C(CNC(NCC2=CC(=C(C=C2OC)NS(=O)(=O)C)C=C)=O)C=C1 | C23H31N3O4S
